US04061651
A solution of 1-nitro-2-tetradecanone (13.0 grams, 50 mmoles) in tertiary butanol (75 milliliters, 0.95 mole) containing anhydrous potassium fluoride (0.2 gram, 3.44 mmoles) was refluxed for 3 hours with the slow removal of 25 milliliters of tertiary butanol. The residual solvent was stripped from the reaction mixture by evaporation at 30°-35° C. under a reduced pressure of 30 millimeters. The evaporation residue was recrystallized from petroleum ether to afford 4.4 grams of 3-tridecanoyl-4-nitro-5-dodecylisoxazole having a melting point of 60°-62° C.

reactant | 1-nitro-2-tetradecanone | 50 mmoles, 13.0 grams | [N+](=O)([O-])CC(CCCCCCCCCCCC)=O | C14H27NO3
reactant | potassium fluoride | 3.44 mmoles, 0.2 gram | [F-].[K+]
solvent | tertiary butanol | 25 milliliters | C(C)(C)(C)O | C4H10O
solvent | tertiary butanol | 0.95 mole, 75 milliliters | C(C)(C)(C)O | C4H10O
product | 3-tridecanoyl-4-nitro-5-dodecylisoxazole | 4.4 grams | C(CCCCCCCCCCCC)(=O)C1=NOC(=C1[N+](=O)[O-])CCCCCCCCCCCC | C28H50N2O4
